US04210757
7-acetamidomethyl-tetrahydroquinoline
2,4,4-trimethyl-7-acetamidomethyl-tetrahydroquinoline ps 7-methoxy-tetrahydroquinoline

reactant | 2,4,4-trimethyl-7-acetamidomethyl-tetrahydroquinoline | CC1NC2=CC(=CCC2C(C1)(C)C)CNC(C)=O | C15H24N2O
reactant | 7-methoxy-tetrahydroquinoline | COC1=CC=C2CCCNC2=C1 | C10H13NO
product | 7-acetamidomethyl-tetrahydroquinoline | C(C)(=O)NCC1=CC=C2CCCNC2=C1 | C12H16N2O
